US09422312B2
Step 1: N-(2-Chloropyrimidin-5-yl)methanesulfinamide
The title compound is prepared from 5-amino-2-chloropyrimidine and methanesulfinyl chloride following a procedure analogous to that described for Intermediate 3 (Step 1). The reaction mixture is cooled in an ice bath for the entire reaction time. LC (method 1): tR=0.49 min; Mass spectrum (ESI+): m/z=192 [M+H]+.

reactant | 5-amino-2-chloropyrimidine | NC=1C=NC(=NC1)Cl | C4H4ClN3
reactant | methanesulfinyl chloride | CS(=O)Cl | CH3ClOS
product | N-(2-Chloropyrimidin-5-yl)methanesulfinamide | ClC1=NC=C(C=N1)NS(=O)C | C5H6ClN3OS
